US08865725B2
1,3-Dichloroacetone (2.27 g, 11.92 mmol) was added to a solution of 4-amino-1-(4-fluoro-phenyl)-1H-pyrimidin-2-one (4.6 g, 12 mmol) in DMF (135 mL). The mixture was stirred at 150° C. for 30 minutes under microwave irradiation and then the solvent was evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM with a gradient of 0/100 to 30/70). The desired fractions were collected and the solvents evaporated in vacuo to yield 2-chloromethyl-6-(4-fluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one (2.5 g, 75% yield) as a solid.

reactant | 1,3-Dichloroacetone | 11.92 mmol, 2.27 g | ClCC(=O)CCl | C3H4Cl2O
reactant | 4-amino-1-(4-fluoro-phenyl)-1H-pyrimidin-2-one | 12 mmol, 4.6 g | NC1=NC(N(C=C1)C1=CC=C(C=C1)F)=O | C10H8FN3O
solvent | DMF | 135 mL | CN(C)C=O | C3H7NO
product | 2-chloromethyl-6-(4-fluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one | 2.5 g, 75% yield | ClCC=1N=C2N(C(N(C=C2)C2=CC=C(C=C2)F)=O)C1 | C13H9ClFN3O
